Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Alendronic Acid
 
Attending: ___.
 
Chief Complaint:
R MCA aneurysm
 
Major Surgical or Invasive Procedure:
___: Diagnostic angiogram
 
History of Present Illness:
Ms. ___ is an ___ year-old female presenting to ___ on
transfer from ___ for management of an
incidentally discovered right MCA bifurcation aneurysm. She
presented to ___ on ___ with altered mental status and 
visual
hallucinations. She was admitted for further workup with
Neurology consultation. Urinalysis and CXR failed to reveal
infectious source. Head CT revealed a calcified lesion along the
region of the right MCA, and MRI confirmed 1cm
partially-thrombosed right MCA bifurcation aneurysm. She was
transferred to ___ for further management. 

Currently, she denies headaches, vision changes, 
nausea/vomiting,
confusion, gait instability, dizziness,
numbness/tingling/weakness in face, arms, or legs. She had a
history of migraines in the past but no headaches in many years.
Her family reports that for the past three weeks, she has been
acting differently, with intermittent episodes of confusion
described as "trance-like" states. On ___, she was 
found
by family without pants, staring out the window. She then called
one of her daughters asking for assistance planning the funeral
of her long-deceased husband. She also visualized ___ 
in
the bathtub the day prior to admission. Her daughters note that
these episodes are more common when the patient has slept 
poorly.
She also has a history of recurrent UTIs over the past ___
months. No diagnosis of dementia or seizure disorder. The 
patient
lives by herself at baseline, walks 2 miles a day, and is
independent in her ADLs. 
 
Past Medical History:
- Hypertension
- Hyperlipidemia
- CKD (Stage III)
- Osteoarthritis right knee
- Osteoporosis
- Macular degeneration
- Glucose intolerance
- Allergic rhinitis
- Recurrent UTI
 
Social History:
___
Family Hx: Brother with unruptured cerebral aneurysm.
 
Physical Exam:
=============
ON ADMISSION
=============

PHYSICAL EXAM:
O: T: 97.6   BP: 146/66   HR: 81   RR: 20   O2Sat: 96%

General: Well-appearing female, sitting in bed, no acute
distress. Very hard of hearing. 
Extremities: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect. Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Cranial Nerves:
I: Not assessed
II: Pupils equally round and reactive to light, 3mm to 2mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Diminished hearing R>L.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full ___ throughout. No pronator drift.

Sensation: Intact to light touch throughout.

Reflexes: 2+ symmetric in upper and lower extremities. Toes
downgoing. 

Coordination: No dysmetria as assessed by finger-nose-finger,
rapid alternating movements.

=============
ON DISCHARGE
=============
Patient is alert and oriented to person, place and time.
Face symmetrical, tongue midline, EOMI. PERRL
MAE ___, no pronator drift
Angio site c/d/I, no hematoma
 
Pertinent Results:
=============
IMAGING
=============
___ DIAGNOSTIC ANGIOGRAM
1. A 5 x 7 mm residual neck of the thrombosed MCA bifurcation 
aneurysm is 
noted and pointing inferiorly. 
  
2. A 5 mm x 4 mm left anterior temporal artery aneurysm was 
observed, at the 
mid segment of the artery with ___rief Hospital Course:
On ___, the patient was transferred from ___ 
to ___ for evaluation of right MCA aneurysm that was seen on 
imaging during workup for hallucinations.  On ___, she was 
taken for diagnostic angio which showed a 5 x 7 mm residual neck 
of the thrombosed MCA bifurcation aneurysm as well a 5 mm x 4 mm 
left anterior temporal artery aneurysm at the mid segment of the 
artery with ___onsidering their stability, no operative 
plans were made.  Neurology was consulted for question of 
encephalopathy in the setting of her hallucinations. Continuous 
EEG was placed for ___ hour and after being negative, 
she was discharged to home.  

# UTI
The patient completed a three day course of Bactrim. The course 
ended on ___. 

 
Medications on Admission:
- Artificial tears 1 drop ___ BID PRN dryness
- Latanoprost 0.005% 1 drop ___
- ___ Wort 1 tab PO daily
- Turmeric extract 1 capsule PO daily
- Simvastatin 20mg PO ___
- Metoprolol SR 25mg PO daily
- Coenzyme Q 200mg PO daily
- Allegra 180mg PO daily
- Aspirin 81mg PO daily
- Calcium supplement
- Vitamin D supplement
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Sulfameth/Trimethoprim SS 2 TAB PO BID Duration: 6 Doses 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 2 
tablet(s) by mouth twice a day Disp #*6 Tablet Refills:*0 
4.  Fexofenadine 180 mg PO DAILY  
5.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES ___  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Simvastatin 20 mg PO QPM  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cerebral aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.
Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•Mild to moderate headaches that last several days to a few 
weeks.
•Fatigue is very normal
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___